US05731306
2-[4-(2-Mercapto-3-phenyl-propionyl-amino)-3-oxo-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-4-methyl-valeric acid, tert-butyl ester
Combine 2-[4-(2-Benzoylsulfanyl-3-phenyl-propionyl-amino)-3-oxo-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-4-methyl-valeric acid, tert-butyl ester (0.229 mmol) in degassed methanol (3 mL) and cool in an ice bath. Treat with degassed 1N aqueous lithium hydroxide (1.0 mL) and stir, allowing the ice bath to warm gradually over 3 hours. With the reaction at 0° C., acidify with 5% hydrochloric acid. Partition between methylene chloride and water, dry (Na2SO4) and purify by silica gel chromatography to give the title compound.

reactant | 2-[4-(2-Benzoylsulfanyl-3-phenyl-propionyl-amino)-3-oxo-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-4-methyl-valeric acid, tert-butyl ester | 0.229 mmol | C(C1=CC=CC=C1)(=O)SC(C(=O)NC1CC2=C(CN(C1=O)C(C(=O)OC(C)(C)C)CC(C)C)C=CC=C2)CC2=CC=CC=C2 | C36H42N2O5S
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 3 mL | CO | CH4O
product | 2-[4-(2-Mercapto-3-phenyl-propionyl-amino)-3-oxo-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-4-methyl-valeric acid, tert-butyl ester | SC(C(=O)NC1CC2=C(CN(C1=O)C(C(=O)OC(C)(C)C)CC(C)C)C=CC=C2)CC2=CC=CC=C2 | C29H38N2O4S
